US09062092B2
Compound 43b. 2-(1-Hydroxy-ethyl)-[1,4]dioxane-2-carboxylic acid methyl ester
A solution of N,N-diisopropylamine (1.67 g, 2.3 mL, 16.5 mmol) in anhydrous tetrahydrofuran (10 mL) was stirred at −78° C. under nitrogen. n-Butyllithium (6.6 mL, 16.5 mmol, 2.5 M solution in hexane) was added dropwise and the reaction mixture was stirred at −78° C. for 30 minutes. A solution of [1,4]dioxane-2-carboxylic acid methyl ester (1.61 g, 11 mmol) in tetrahydrofuran (10 mL) was added and the reaction mixture was stirred at −78° C. for 30 minutes. Acetaldehyde (1.45 g, 1.8 mL, 33 mmol) was added in one portion. The cooling bath was removed and the reaction mixture was stirred at room temperature for 30 minutes. The reaction mixture was cooled to 5° C. and ice-cold 1 M hydrochloric acid was added to acidify the reaction mixture to pH 2. Sodium chloride was added to saturate the solution and the mixture was extracted with diethyl ether (4×). The organic extracts were combined and washed with brine. The organic solution was filtered through a hydrophobic frit and the filtrate was evaporated. The residue was purified by silica gel chromatography using a gradient of pentane/diethyl ether 1:1 to 0:1 to afford the title compound (1.49 g, 71%), as an oil, and as a 3:1 mixture of diastereoisomers. LCMS (m/z) 213.2 [M+H], Tr=0.62 min.

reactant | N,N-diisopropylamine | 16.5 mmol, 2.3 mL, 1.67 g | C(C)(C)NC(C)C | C6H15N
reactant | n-Butyllithium | 16.5 mmol, 2.5 M, 6.6 mL | C(CCC)[Li]
reactant | [1,4]dioxane-2-carboxylic acid methyl ester | 11 mmol, 1.61 g | COC(=O)C1OCCOC1 | C6H10O4
reactant | Acetaldehyde | 33 mmol, 1.8 mL, 1.45 g | C(C)=O | C2H4O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 2-(1-Hydroxy-ethyl)-[1,4]dioxane-2-carboxylic acid methyl ester | 1.49 g, 71% | COC(=O)C1(OCCOC1)C(C)O | C8H14O5
